* Schematics Netlist *



X_S1    AA1 0 $N_0001 $N_0002 SimmetrCM_S1 
D_D1         $N_0002 $N_0001 Dbreak 
X_S3    AA2 0 $N_0003 $N_0004 SimmetrCM_S3 
D_D3         $N_0004 $N_0003 Dbreak 
D_D4         I_sence $N_0004 Dbreak 
X_S4    AA1 0 $N_0004 I_sence SimmetrCM_S4 
D_D2         I_sence $N_0002 Dbreak 
X_S2    AA2 0 $N_0002 I_sence SimmetrCM_S2 
R_R2         $N_0005 I_sence  1k  
C_C1         0 $N_0005  0.5n  
C_C3         0 $N_0006  1u  
C_C4         0 $N_0007  1n  
R_R3         $N_0008 0  500k  
V_V2         $N_0009 0 15
C_C5         0 $N_0010  500p  
R_R6         $N_0012 $N_0011  50k  
C_C6         $N_0013 $N_0011  100p  
C_C7         $N_0013 $N_0012  1n  
R_R7         $N_0014 $N_0013  5k  
X_U1         $N_0013 $N_0006 $N_0011 $N_0008 $N_0007 $N_0010 $N_0015 $N_0005 0
+  AA1 0 $N_0009 AA2 $N_0009 $N_0006 SG1825 
+ PARAMS: PERIOD={1/20k} DEADTIME=5e-8
C_C10         0 $N_0013  1n  
C_C2         0 $N_0015  100p  
R_R9         $N_0017 $N_0014  10k  
C_C8         0 $N_0018  100u  
R_R19         $N_0018 $N_0014  32k  
C_C9         $N_0017 $N_0018  300p  
R_R18         $N_0014 0  5.1k  
R_R1         0 I_sence  600m  
R_R8         $N_0019 0  3m  
V_V1         $N_0001 0 240
V_V8         $N_0018 $N_0019 25
L_L1         $N_0002 $N_0004  12m  
V_V3         $N_0003 0 150
D_D5         0 $N_0020 Dbreak 
D_D6         0 $N_0021 Dbreak 
L_L10         $N_0021 $N_0018  100u  
Kn_K1         L_L1 L_L2 
+ L_L9 L_L10   1
R_R22         $N_0010 I_sence  1k  
R_R21         $N_0010 $N_0006  4k  
L_L9         $N_0022 $N_0018  100u  
L_L2         $N_0020 $N_0023  1.4m  
R_R23         $N_0022 $N_0020  1m  
R_R24         $N_0021 $N_0023  1m  

.subckt SimmetrCM_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=1m Voff=0.0V Von=1.0V
.ends SimmetrCM_S1

.subckt SimmetrCM_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1e6 Ron=1m Voff=0.0V Von=1.0V
.ends SimmetrCM_S3

.subckt SimmetrCM_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1e6 Ron=1m Voff=0.0V Von=1.0V
.ends SimmetrCM_S4

.subckt SimmetrCM_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e6 Ron=1m Voff=0.0V Von=1.0V
.ends SimmetrCM_S2
